US07326799B2
Synthesis of (2S)-N-[(S)-1,2-dioxo-1-[N-[(S)-2-oxocyclohexyl]amino]-3-heptyl]-1-(phenylmethoxycarbonyl)pyrrolidine-2-carboxamide (Compound of the Formula X)
Under argon gas stream, to 10 ml of an anhydrous dimethylsulfoxide-dichloromethane (1:1) solution containing 1.38 g (8.6 mmol) of sulfur trioxide pyridine complex salt were successively added dropwise at 0° C. 1.47 ml (8.6 mmol) of diisopropylethylamine, and then, 5 ml of an anhydrous dimethylsulfoxide solution containing 350 mg (0.7 mmol) of (2S)-N-[(2S,3S)-2-hydroxy-1-[N-[(1S,2S)-2-hydroxycyclohexane-1-yl]amino]-1-oxo-3-heptyl]-1-(phenylmethoxycarbonyl)pyrrolidine-2-carboxamide, and the resulting mixture was stirred at the same temperature for 5 hours. After completion of the reaction, to the reaction mixture was added 25 ml of ice-water, and the resulting mixture was extracted with 30 ml of ethyl acetate three times. The organic layers were combined, washed with 100 ml of a 10%-aqueous citric acid solution, 100 ml of a saturated aqueous sodium hydrogen carbonate solution, and then, 100 ml of a saturated NaCl solution, dried over anhydrous sodium sulfate, and then, concentrated under reduced pressure. The residue was purified by neutral silica gel column chromatography to obtain 300 mg (Yield: 86.1%) of the title compound.

reactant | dimethylsulfoxide-dichloromethane | 10 ml | ClCCl.CS(=O)C
reactant | diisopropylethylamine | 8.6 mmol, 1.47 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (2S)-N-[(2S,3S)-2-hydroxy-1-[N-[(1S,2S)-2-hydroxycyclohexane-1-yl]amino]-1-oxo-3-heptyl]-1-(phenylmethoxycarbonyl)pyrrolidine-2-carboxamide | 0.7 mmol, 350 mg | O[C@H](C(=O)N[C@@H]1[C@H](CCCC1)O)[C@H](CCCC)NC(=O)[C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1 | C26H39N3O6
solvent | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
product | (2S)-N-[(S)-1,2-dioxo-1-[N-[(S)-2-oxocyclohexyl]amino]-3-heptyl]-1-(phenylmethoxycarbonyl)pyrrolidine-2-carboxamide | 300 mg, Yield: 86.1% | O=C(C([C@H](CCCC)NC(=O)[C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1)=O)N[C@@H]1C(CCCC1)=O | C26H35N3O6
